* c:\users\mistr\esim-workspace\decoder\decoder.cir

* u6  net-_u3-pad3_ net-_u3-pad4_ net-_u10-pad1_ d_and
* u7  net-_u3-pad3_ net-_u4-pad2_ net-_u10-pad2_ d_and
* u9  net-_u5-pad2_ net-_u3-pad4_ net-_u10-pad3_ d_and
* u8  net-_u5-pad2_ net-_u4-pad2_ net-_u10-pad4_ d_and
* u10  net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ y3 y2 y1 y0 dac_bridge_4
r1  y3 ? 100
r4  y2 gnd 100
r2  y1 gnd 100
* u3  a1 a0 net-_u3-pad3_ net-_u3-pad4_ adc_bridge_2
v1 a1 gnd  dc 5
v2 a0 gnd  dc 0
* u1  a1 plot_v1
* u2  a0 plot_v1
* u4  net-_u3-pad4_ net-_u4-pad2_ d_inverter
* u5  net-_u3-pad3_ net-_u5-pad2_ d_inverter
r3  y0 gnd 100
* u12  y3 plot_v1
* u14  y2 plot_v1
* u11  y0 plot_v1
* u13  y1 plot_v1
a1 [net-_u3-pad3_ net-_u3-pad4_ ] net-_u10-pad1_ u6
a2 [net-_u3-pad3_ net-_u4-pad2_ ] net-_u10-pad2_ u7
a3 [net-_u5-pad2_ net-_u3-pad4_ ] net-_u10-pad3_ u9
a4 [net-_u5-pad2_ net-_u4-pad2_ ] net-_u10-pad4_ u8
a5 [net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ ] [y3 y2 y1 y0 ] u10
a6 [a1 a0 ] [net-_u3-pad3_ net-_u3-pad4_ ] u3
a7 net-_u3-pad4_ net-_u4-pad2_ u4
a8 net-_u3-pad3_ net-_u5-pad2_ u5
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u6 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u7 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u9 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u8 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u10 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 1e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(a1)
plot v(a0)
plot v(y3)
plot v(y2)
plot v(y0)
plot v(y1)
.endc
.end
